Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Benadryl / Contrast Dye
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old male with hx of OSA on CPAP who presents 
with 4 days of R temporal head pain, neck pain, and R eye visual 
changes; starting after he lifted weights 4 days ago. He reports 
that he hadn't lifted weights for around ___ years but was 
previously very active.  He started lifting weights again 4 days 
ago and "over-did it". Since that time he has had neck pain over 
his right shoulder/neck pain on palpation and exacerbated by 
head turning to right, palpation. 

The morning after weight lifting, he was lying on his right side 
in the morning and realized that his head, neck, and shoulder 
were painful when touching the pillow or painful on palpation. 
He also noted R eye blurry vision. The right-sided headache is 
localized to a "quarter-sized" area above the ear that is tender 
to palpation. He notices the discomfort only slightly when not 
touching it. His neck pain is exacerbated by turning his head to 
the right. His blurry vision seems to be associated with 
exacerbations of the head pain. He has had intermittent right 
eye watering and redness for many years, and is not associated 
with the same blurriness that he has experienced over the past 
week. He has not had any tinnitus, double vision, or loss of 
vision. He has not had any dysphagia or jaw claudication. No 
focal numbness, weakness, or difficulties with gait. 

He has a history of sleep apnea, and has daily headaches for 
which he takes Advil 4 tabs every 8 hours DAILY. 
 
Past Medical History:
Sleep apnea
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
ADMISSION EXAMINATION:
Physical Exam:
Vitals: T:97.9  P:73  R:16  BP:136/83  SaO2:97%
General: Awake, cooperative, NAD.
HEENT: Tender right trapezius, neck musculature, and skin 1-2 cm 
above right auricle. NC/AT, no scleral icterus noted, MMM, no 
lesions noted in oropharynx. Right eyelid ptosis ~1mm, but 
similar to photographs from ~1.5 weeks ago. 
Neck: Supple.
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: Soft, NT/ND, normoactive bowel sounds.
Extremities: No ___ edema. Multiple tattoos. 
Skin: No rashes or lesions noted. Cholesteatomata on medial 
eyelids. 

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Language is fluent.Normal prosody. There 
were no paraphasic errors. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  Mild R eye periorbital edema and conjunctival 
injection. PERRL 5 to 3mm and brisk. EOMI without nystagmus. 
Normal saccades. VFF to confrontation. Fundoscopic exam revealed 
no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF. 

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

DISCHARGE EXAMINATION:
Unchanged.
 
Pertinent Results:
ADMISSION LABS: ___
BLOOD WBC-7.4 Hgb-16.0 Hct-46.7 Plt ___
Neuts-57.0 ___ Monos-8.0 Eos-1.8 Baso-0.5 Im ___ 
AbsNeut-4.20 AbsLymp-2.39 AbsMono-0.59 AbsEos-0.13 AbsBaso-0.04
BLOOD ___ PTT-30.8 ___
Glucose-92 UreaN-10 Creat-0.9 Na-138 K-4.2 Cl-99 HCO3-27 
AnGap-16
ALT-55* AST-30 LD(LDH)-171 CK(CPK)-119 AlkPhos-58 TotBili-1.0 
Albumin-4.8 

Stroke Risk Factors: ___
Cholest-207* Triglyc-130 HDL-34 CHOL/HD-6.1 LDLcalc-147*
%HbA1c-5.3 eAG-105
TSH-2.2
CRP-2.2
SED RATE-2 

Imaging:
MRI/MRA head and neck ___
IMPRESSION:
1.  Study is mildly degraded by motion.
2. Please note that patient refused further imaging after 
acquisition of the first set of upper axial T1 fat sat images 
and refused contrast due to
apparent history of contrast dye allergy.
3. No acute intracranial abnormality including infarct, 
hemorrhage or
suggestion of mass.
4. Patent intracranial vasculature without significant stenosis, 
occlusion or aneurysm.  No evidence of carotid cavernous 
fistula.
5. Patent visualized portion of the cervical vasculature without 
evidence of significant stenosis, or occlusion.  Note that the 
great vessel origins and proximal cervical arterial vasculature 
were not imaged.  Within limits of study, there is no evidence 
of dissection in the visualized upper portion of the cervical 
vasculature, though the majority of the proximal vasculature was 
not imaged utilizing T1 fat saturation technique.
6. Grossly stable low lying cerebral tonsils again noted.     
 
Brief Hospital Course:
___ presented with neck pain and intermittent blurry 
vision in the setting of recent weight lifting. On examination 
he had a right ptosis which was present prior to the weight 
lifting as well as tenderness over the right temple and neck. 
Given the concern for a potential carotid dissection, he was 
admitted to the Neurology service for vessel imaging. MRI showed 
not acute stroke. MRA was incomplete due difficulty completing 
the study and the origins of the vessels were not visualized. 
However, there was good flow within all of the cerebral 
vasculature which was imaged and there was no evidence of 
dissection. Given his reassuring examination, his MRA was not 
repeated and he was discharged home with supportive care. As 
there was no evidence of stroke, secondary stroke prevention was 
not necessary. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
musculoskeletal pain
chronic right ptosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
You were hospitalized due to symptoms of neck pain and eye 
blurriness. We saw that you your right eyelid was drooping, but 
this looks like it is old. We did an MRI of your brain, which 
shows no sign of a stroke. Your blood vessels did not show a 
sign of a tear. 
 
We believe that your neck pain is caused by muscle strain. We 
recommend treatment with heat, stretching and ibuprofen. In 
order to avoid taking too much ibuprofen we recommend 
alternating with Tylenol. 
 
We are not making any changes to your medications. We do 
recommend that you do not take more than 3200mg of ibuprofen (16 
200-mg tablets) a day because there is a risk of injuring your 
kidneys. Also, if you take pain medications every day you can 
get medication rebound headaches. Therefore, once your shoulder 
is feeling better we recommend that you cut back on the amount 
of ibuprofen you are taking.
 
Please followup with Neurology and your primary care physician.  

  
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___